US06156935
(1R,3R,5R,6S)-Bicyclo[3.2.0]heptane-3,6-diol
To a solution of 19.33 g (153 mmol) of (1R,3R,5R)-3-hydroxybicyclo[3.2.0]heptan-6-one in 560 mL of dry methanol was added at -78° C. 7.52 g (199 mmol) of sodium borohydride in portions. The reaction mixture was stirred for 2 h and then quenched with 20 mL of saturated ammonium chloride. The mixture was concentrated in vacuo, diluted with 600 mL of ethyl acetate and washed twice with 100 mL of water and 100 mL of brine. The organic layers were dried (MgSO4) and the solvent concentrated in vacuo. The crude product was purified by chromatography on silica gel with petroleum ether (40/60)--ethyl acetate (1:1 v:v). The crude product was recrystallised from hexane to yield 13.70 g (70%) of a colourless solid.

reactant | (1R,3R,5R)-3-hydroxybicyclo[3.2.0]heptan-6-one | 153 mmol, 19.33 g | O[C@@H]1C[C@@H]2CC([C@@H]2C1)=O | C7H10O2
reactant | sodium borohydride | 199 mmol, 7.52 g | [BH4-].[Na+]
solvent | methanol | 560 mL | CO | CH4O
product | (1R,3R,5R,6S)-Bicyclo[3.2.0]heptane-3,6-diol | 13.70 g, 70% | [C@@H]12C[C@H](C[C@H]2[C@H](C1)O)O | C7H12O2
